US06239138B1
e) tert-Butyl 3-(2-oxoethyl-5-methoxyphenyl)propionate
To a solution of tert-butyl 3-(2-propeny-5-methoxyphenyl)propionate (7.2 g, 26 mmol) in THF (60 mL) and H2O (30 mL) were added NaO4 (9.8 g, 46 nmmol) and 4% osmium tetroxide (1 mL). After stirring at RT, the mixture was filtered and the filtrate was diluted with ether. The combined extracts were dried and evaporated to give the crude product which was flash chromatographed to give the titled compound (3.0 g; 43% yield).

reactant | tert-butyl 3-(2-propeny-5-methoxyphenyl)propionate | 26 mmol, 7.2 g | C(=CC)C1=C(C=C(C=C1)OC)CCC(=O)OC(C)(C)C | C17H24O3
reactant | THF | 60 mL | C1CCOC1 | C4H8O
solvent | H2O | 30 mL | O | H2O
catalyst | osmium tetroxide | 1 mL | [Os](=O)(=O)(=O)=O
product | tert-Butyl 3-(2-oxoethyl-5-methoxyphenyl)propionate | 3.0 g, 43% yield | O=CCC1=C(C=C(C=C1)OC)CCC(=O)OC(C)(C)C | C16H22O4
